* \\vmware-host\Shared Folders\Documents\DEV\sck-adc\simetrix files\8.00\RC4558\zuyev_1.3_RC4558 - cmrr.wxsch
*#SIMETRIX
.GRAPH VosCMRR axisType="auto" persistence=-1 curveLabel="Vos CMRR" analysis="tran|ac|dc" order="7" xLog="auto" yLog="auto" yLabel="VOffset"  nowarn=true disabled=false 
X3 R12_P Vcm Vdd Vss R10_P RC4558 pinnames: inp inn vsp vsn out
V3 Vcm 0 0
V6 Vss 0 -15
V7 Vdd 0 15
R9 R9_P R12_P 100k
R10 R10_P R9_P 5k
R11 R9_P Vcm 5k
R12 R12_P Vcm 10
X$ARB3 R9_P VosCMRR $$arbsourceARB3 pinnames: vx OUT 
.subckt $$arbsourceARB3 vx OUT 
B$OUT OUT 0 V=V(Vx) * 10 / (100k + 10) 
.ends
.GRAPH Vcm curveLabel= Vcm nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
*.TRAN 100m
*.AC DEC 100 1k 100Meg
.DC V3 -1m 1m 2m
.TEMP 25

